US04363910
Into a solution of 13.2 g. of (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid sodium salt in 10 ml of methanol 2.7 g of zinc chloride are added. The solution is stirred at room temperature of 2 hours, whereupon it is diluted with 40 ml of water. The solution is then evaporated in vacuo on water bath. 9.9 g (87%) of (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid zinc salt are obtained, melting at 98° to 100° C.

reactant | (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid sodium salt | [Na].CC1(NC2=CC=CC=C2C(=C1)OS(=O)(=O)C)C
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | methanol | 10 ml, 2.7 g | CO | CH4O
solvent | water | 40 ml | O | H2O
product | (2,2-dimethyl-1,2-dihydroquinoline-4-yl)-methylsulfonic acid zinc salt | 9.9 g, 87% | [Zn].CC1(NC2=CC=CC=C2C(=C1)OS(=O)(=O)C)C | InChI=1S/C12H15NO3S.Zn/c1-12(2)8-11(16-17(3,14)15)9-6-4-5-7-10(9)13-12;/h4-8,13H,1-3H3;
